### PR TITLE
Add Erdős Problem 682 (rough numbers between consecutive primes), link the formal proof

### LINKED ISSUE #6415: Erdős Problem 682
### What is the Erdős problem?

https://www.erdosproblems.com/682

Is it true that for almost all $n$ there exists some $m\in (p_n,p_{n+1})$ such that $p(m) \geq p_{n+1}-p_n$, where $p(m)$ denotes the least prime factor of $m$?

Status: proved (Gafni–Tao [GaTa25]). A formal proof exists in plby/lean-proofs (`Erdos682.erdos_682`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6415.

### What changed
Adds `FormalConjectures/ErdosProblems/682.lean` (with `p n = Nat.nth Nat.Prime n`):
- `erdos_682` (`research solved`, `answer(True)`): the set of `n` such that some `m ∈ (p n, p (n+1))` has `p (n+1) - p n ≤ m.minFac` has natural density `1` (Gafni–Tao).
- `variants.exceptional_count` (sorry'd): the Gafni–Tao bound `≪ X / (log X)^2` on the number of exceptional `n ≤ X`.
- `variants.dickson_counterexample` (`textbook`): Erdős' conditional counterexample `2183 + 30030 d`, `2201 + 30030 d`.

The first and third are linked to plby/lean-proofs `Erdos682.erdos_682` / `erdos_conditional_counterexample` (Codex and GPT-5.6 Sol; 51 Mathlib-only files including the PNT+ port).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos682.erdos_682` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy (plby's `Util.Density` is a copy of this repo's `Set.HasDensity` and was replaced by an import of it), same axioms:

<details>
<summary>Bridge</summary>

```lean
open Filter Set

namespace Bridge682

lemma set_eq :
    {n | ∃ m ∈ Set.Ioo (Erdos682.p n) (Erdos682.p (n + 1)),
        Erdos682.p (n + 1) - Erdos682.p n ≤ m.minFac} =
      {n : ℕ | ∃ m : ℕ, Erdos682Plby.nthPrime n < m ∧ m < Erdos682Plby.nthPrime (n + 1) ∧
        Erdos682Plby.nthPrime (n + 1) - Erdos682Plby.nthPrime n ≤ Nat.minFac m} := by
  ext n
  simp only [mem_ofPred_eq, mem_Ioo, Erdos682.p, Erdos682Plby.nthPrime, and_assoc]

theorem erdos_682 : True ↔
    {n | ∃ m ∈ Set.Ioo (Erdos682.p n) (Erdos682.p (n + 1)),
      Erdos682.p (n + 1) - Erdos682.p n ≤ m.minFac}.HasDensity 1 := by
  rw [set_eq]
  exact ⟨fun _ => Erdos682Plby.erdos_682, fun _ => trivial⟩

theorem dickson_counterexample (d : ℕ) (h₁ : (2183 + 30030 * d).Prime)
    (h₂ : (2201 + 30030 * d).Prime) : ∃ n, Erdos682.p n = 2183 + 30030 * d ∧
      Erdos682.p (n + 1) = 2201 + 30030 * d ∧
      ∀ m ∈ Set.Ioo (Erdos682.p n) (Erdos682.p (n + 1)),
        m.minFac < Erdos682.p (n + 1) - Erdos682.p n := by
  obtain ⟨n, hn, hn1, hex⟩ := Erdos682Plby.erdos_conditional_counterexample d h₁ h₂
  refine ⟨n, hn, hn1, fun m hm => ?_⟩
  rw [Erdos682Plby.exceptionalGap_iff] at hex
  exact hex m hm.1 hm.2

end Bridge682
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«682»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/682.lean [hunk 1]
```diff
@@ -0,0 +1,81 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/682.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
